US09422312B2
Step 2: (3R,3aR,6R,6aR)-6-({6-Chloro-5-[4-(4-{[methyl(oxo)pyrrolidin-1-yl-λ6-sulfanylidene]amino}phenyl)phenyl]-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-2-yl}oxy)-hexahydrofuro[3,2-b]furan-3-ol
The title compound is prepared from (3R,3aR,6R,6aR)-6-(6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol and 4-bromo-N-[methyl-(oxo)pyrrolidin-1-yl-λ6-sulfanylidene]aniline following a procedure analogous to that described for Intermediate 3 (Step 3). LC (method 1): tR=1.16 min; Mass spectrum (ESI+): m/z=726 [M+H]+.

reactant | (3R,3aR,6R,6aR)-6-(6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)N(C(=N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)COCC[Si](C)(C)C | C30H41BClN3O7Si
reactant | 4-bromo-N-[methyl-(oxo)pyrrolidin-1-yl-λ6-sulfanylidene]aniline | BrC1=CC=C(N=S(N2CCCC2)(=O)C)C=C1 | C11H15BrN2OS
product | (3R,3aR,6R,6aR)-6-({6-Chloro-5-[4-(4-{[methyl(oxo)pyrrolidin-1-yl-λ6-sulfanylidene]amino}phenyl)phenyl]-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-2-yl}oxy)-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=C(C=C1)N=S(N1CCCC1)(=O)C)N(C(=N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)COCC[Si](C)(C)C | C35H44ClN5O6SSi
